US06350749B1
A solution of 2-(1-hydroxyethylidene)-5-(2-methylphenyl)cyclohexane-1,3-dione (0.45 g) and hydrazine hydrate (0.1 g) in ethanol (10 ml) was refluxed for 15 minutes. Under reduced pressure, the solvent was evaporated, and the residue was recrystallized from ethyl acetate-hexane to give colorless crystals of 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindazol-4-one (0.40 g).

reactant | 2-(1-hydroxyethylidene)-5-(2-methylphenyl)cyclohexane-1,3-dione | 0.45 g | OC(C)=C1C(CC(CC1=O)C1=C(C=CC=C1)C)=O | C15H16O3
reactant | hydrazine hydrate | 0.1 g | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydroindazol-4-one | 0.40 g | CC1=NNC=2CC(CC(C12)=O)C1=C(C=CC=C1)C | C15H16N2O
